Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / benzocaine / Dilaudid / 
codeine / gabapentin / Gadolinium-Containing Contrast Media / 
iodine / lisinopril / Latex, Natural Rubber / moxifloxacin
 
Attending: ___.
 
Chief Complaint:
?seizure
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
The patient is a ___ year old woman with a history of recurrent
episodes of confusion, who is transferred to ___ from
___ for the same.

She was recently evaluated in this ED by Neurology on ___.
The following is gleaned from that encounter:
"Ms. ___ first had an event of confusion in ___, and 
she
had a second event also in that month. They were thought to be
TIAs after negative workup. 

She did not have any further events until approx 2 weeks ago. 
She
had another confusional event on ___, and was
hospitalized at ___. Workup including MRI brain and routine EEG
after symptom resolution was negative and she was started on LEV
500mg bid. She was also diagnosed with UTI at that time per
family. She was discharged ___. The next day she had
another typical event. That morning she was well and woke up,
made toast and coffee and spoke with her husband, then went into
another room. Approximately 1 hour later her husband came into
the room and found her asleep, and he was unable to wake her. 
She
was again brought to ___, where she was given a benzodiazepine.
She remained largely sleepy throughout most of the day, but when
she had sustained alertness late that evening, she was saying
things that were real words in full sentences, but inappropriate
to the situation, which is again typical of these events. She
again underwent negative workup including MRI and was discharged
with increase in LEV to 750mg bid. 

On ___, she followed up with her Neurologist, ___ 
at
___, who discussed with her and her family that these events 
are
suspicious for seizure and he encouraged her to remain on LEV
750mg bid. He also said that if it happened again he would
increase LEV to 1g bid. 

Today, her husband stated that she complained of chest tightness
and nervousness around 1400. Around ___ he noted onset of the
same speech/confusional change. He brought her to ___ and she 
was
subsequently transferred to ___. Family and Ms. ___ 
report
she has been back to baseline except slightly "less sharp" since
arrival at ___. They have not noticed any further examples of
abnormal speech or confusion. Ms. ___ has no recollection 
of
the events. She last remembers feeling "off balance and like my
feet weren't touching the floor". This sensation has happened
before, but not associated with the confusional events and she
doesn't recollect any further details about prior times she has
felt that sensation."

At that time, impression was of a breakthrough seizure likely
related to urinary tract infection. Her ___ was increased to
1000mg BID. 

Today she returns to the ED after having a another episode at
home.  She states that she woke up early in the morning because
her husband gone to the bathroom.  She next remembers her 
husband
standing over her, looking at her.  He told her she had
apparently had another episode of nonsensical speech.  She does
not recall exactly what she said.  She does not have any memory
for the event.  She reports to me that the episodes are usually
associated with preceding chest pain and anxiety.  However, her
family seems to report that the chest pain and anxiety are not
temporally associated with the events.  They do think she has
been much more anxious since she was diagnosed with seizures. 
They do not think the ___ has had any effect on the frequency
of the events.

 
Past Medical History:
Migraine
Recurrent confusional events
chronic vertigo, attritbuted to possible complex migrainous
phenomena
s/p bilateral cataract surgeries
Hypertension
Reflux
 
Social History:
___
Family History:
No family history of strokes or seizures. 
Father, paternal uncle, and brother died from lung cancer.
 
Physical Exam:
Admission Physical Examination:
Vitals: T: 97.5 p: 72 R: 16  BP: 168/73 SaO2: 97% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty, with the exception of the events themselves.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension.  Normal
prosody. There were no paraphasic errors. Pt was able to name
both high and low frequency objects.  Able to read without
difficulty.  When asked to write a sentence, she writes "I tired
of hospitals".  Speech was not dysarthric. Able to follow both
midline and appendicular commands.  She did have some trouble
copying a cube.  There was no evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  There are frequent, nearly constant, choreiform
movements more on the right side than the left, and mostly in 
the
distal extremities.  She often tries to suppress these by 
holding
the limbs or crossing her legs.  No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Not tested

Discharge Physical Exam 
========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: breathing comfortably on room air 
Cardiac: warm and well perfused 
Abdomen: NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to month, ___. Able to relate history without difficulty.
Language is fluent with intact repetition and comprehension. 
Normal prosody. 

-Cranial Nerves: PERRL 3 to 2mm and brisk. EOMI without
nystagmus.  VFF to confrontation. Facial sensation intact to 
light touch.: No facial droop, facial musculature 
symmetric.Palate elevates symmetrically.
___ strength in trapezii and SCM bilaterally. Tongue protrudes 
in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.  There are frequent choreoform movements more on 
the
right side than the left, and mostly in the distal extremities
but also in RUE.  She is able to suppress the movements. No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch

-DTRs:
deferred

-___: deferred
-Gait: able to stand up from bed withtou assistance, normal gait 
and stride length 

 
Pertinent Results:
Admission Labs 
===============
___ 12:30PM BLOOD WBC-5.9 RBC-3.97 Hgb-11.5 Hct-34.9 MCV-88 
MCH-29.0 MCHC-33.0 RDW-13.0 RDWSD-41.5 Plt ___
___ 12:30PM BLOOD ___ PTT-29.0 ___
___ 12:30PM BLOOD Glucose-101* UreaN-13 Creat-0.8 Na-143 
K-4.5 Cl-106 HCO3-24 AnGap-13
___ 12:30PM BLOOD ALT-17 AST-18 AlkPhos-70 TotBili-0.8
___ 12:30PM BLOOD Lipase-28
___ 12:30PM BLOOD Albumin-4.3 Calcium-10.2 Phos-4.0 Mg-1.7

Important Interval Labs
=========================
___ 10:23AM BLOOD VitB12-326
___ 10:23AM BLOOD TSH-1.0
___ 10:23AM BLOOD PTH-54
___ 10:23AM BLOOD ___ CRP-0.9
SED RATE
 
Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 30 mm/h
WESTERGREN                        

___ 12:59
LEVETIRACETAM (___)
 
Test                          Result              Reference 
Range/Units
LEVETIRACETAM                 34.2                mcg/m

Discharge Labs 
===============
___ 05:25AM BLOOD WBC-4.5 RBC-3.99 Hgb-11.4 Hct-35.3 MCV-89 
MCH-28.6 MCHC-32.3 RDW-13.2 RDWSD-42.4 Plt ___
___ 05:25AM BLOOD Glucose-112* UreaN-16 Creat-1.0 Na-139 
K-5.1 Cl-101 HCO3-28 AnGap-10

No additional imaging performed  
 
Brief Hospital Course:
This is a ___ woman who has had recurrent episodes of 
nonsensical speech ongoing for at least a year or so. 

#Transient speech difficulty
#Choreifrom movements: Initially attributed to TIA and more 
recently seizures. She was continued on ___ 1gm BID and 
monitored on EEG. She did not have recurrence of speech 
disturbance during admission. Her EEG was negative for 
epileptiform discharges or seizures. She was noted to have 
constant choreiform movements which pre patient had been present 
for at least a year. Lab work including TSH, B12, PTH, ESR and 
CRP were wnl. ___ and ___ level were pending at time of 
discharge. Upon review of medications it was noted that she was 
taking large doses of hydroxyzine with omeprazole. Antihistamine 
induced chorea has been described and feel that likely cause of 
chorea in Ms. ___. Her hydroxyzine was decreased to 25mg 
without any recurrence of hives. Transient speech difficulties 
possibly due to polypharmacy with large amounts of scopolamine 
and hydroxyzine though cannot exclude seizures. She was 
continued on ___ 1gm BID. 

#chronic vertigo
-continued home scopolamine

#HTN: She was continued on home amlodipine. Her metop was 
fractionated and decreased due to low heart rates. She was 
discharged on half dose of metoprolol. 

#chronic hives: See discussion above about choreiform movements. 
Hydroxyzine was decreased to 25mg daily without occurrence of 
hives. 

#anxiety
-continued home clonazepam prn

Transitional Issues 
=====================
[]f/u with Neurology at previously scheduled appointment 
[]f/u with PCP 
[]consider stopping hydroxyzine completely if no recurrence of 
hives 
[]Consider repeat vestibular ___ as an outpatient 
[]Consider referral to psychologist/therapist to help with 
anxiety and stress at home

-Contact: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. LevETIRAcetam 1000 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. amLODIPine 5 mg PO DAILY 
7. scopolamine HBr (bulk) 0.4 mg PO tid 
8. HydrOXYzine 100 mg PO QHS 
9. Omeprazole 20 mg PO EVERY OTHER DAY  
10. Ranitidine 150 mg PO BID 
11. azelastine 0.15 % (205.5 mcg) nasal BID 
12. Vitamin D ___ UNIT PO DAILY 
13. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
14. fluticasone 0.05 % topical Daily: PRN  
15. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 

 
Discharge Medications:
1.  Magnesium Oxide 400 mg PO BID Duration: 2 Doses 
RX *magnesium oxide 400 mg 1 capsule(s) by mouth twice a day 
Disp #*2 Capsule Refills:*0 
2.  HydrOXYzine 25 mg PO QHS 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
4.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache  
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
6.  amLODIPine 5 mg PO DAILY  
7.  azelastine 0.15 % (205.5 mcg) nasal BID  
8.  Clopidogrel 75 mg PO DAILY  
9.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
10.  fluticasone 0.05 % topical Daily: PRN   
11.  LevETIRAcetam 1000 mg PO BID  
12.  Omeprazole 20 mg PO EVERY OTHER DAY   
13.  Ranitidine 150 mg PO EVERY OTHER DAY  
14.  Rosuvastatin Calcium 20 mg PO QPM  
15.  scopolamine HBr (bulk) 0.4 mg PO tid  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Transient Neurologic Episodes 
Chorea 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___! 

You were admitted to the hospital for episodes of difficulty 
speaking. You were monitored on EEG that was negative for any 
seizures. You were kept on your seizures medication. You were 
noted to have continuous movements called "chorea". We think 
this is due to your medication hydroxyzine which we decreased 
this admission. 

All the best. 
Your Neurology Care Team 
 
Followup Instructions:
___